US05461059
Step A: 2-chlorobenzimidazole
A solution of 2-hydroxy benzimidazole (40.2 g) in 93 ml phosphorus oxychloride is heated to reflux under stirring for 6 hours. After achievement of the reaction the solution is let to revert to -10° C. and hydrolysed with 100 g crushed ice and 100 ml iced water. They are slowly added 249 ml sodium hydroxide 10N to get a neutral pH value. The precipitated product is filtered, washed with the minimal amount of water. The crystals are taken up in hot ethanol. After cooling, the alcoholic juice are filtered and concentrated to dryness.

reactant | 2-hydroxy benzimidazole | 40.2 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | 10N, 249 ml | [OH-].[Na+]
reactant | phosphorus oxychloride | 93 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
